data/rdb19/train.csv
rxn,smiles,ea
4589,[C:17](=[C:18]([c:19]1[c:20]([H:28])[c:21]([H:29])[c:22]([H:30])[c:23]([H:31])[c:24]1[H:32])[H:27])([H:25])[H:26].[C:1]([C:2]([C:3]([H:13])([H:14])[H:15])([C:4]([H:5])[H:6])[C:7](=[O:8])[O:9][H:16])([H:10])([H:11])[H:12]>>[C:17](=[C:18]([c:19]1[c:20]([H:28])[c:21]([H:29])[c:22][c:23]([H:31])[c:24]1[H:32])[H:27])([H:25])[H:26].[C:1]([C:2]([C:3]([H:13])([H:14])[H:15])([C:4]([H:5])([H:6])[H:30])[C:7](=[O:8])[O:9][H:16])([H:10])([H:11])[H:12],25.269741375464942
3966,[C:1]([C:2]([C:3]([C:4]([H:15])([H:16])[H:17])([C:5]([H:18])([H:19])[H:20])[C:6](=[O:7])[O:8][C:9]([H:21])([H:22])[H:23])([H:13])[H:14])([H:10])([H:11])[H:12].[C:24]([H:25])([H:26])[H:27]>>[C:1]([C:2]([C:3]([C:4]([H:15])([H:16])[H:17])([C:5]([H:18])([H:19])[H:20])[C:6](=[O:7])[O:8][C:9]([H:21])([H:22])[H:23])[H:13])([H:10])([H:11])[H:12].[H:14][C:24]([H:25])([H:26])[H:27],18.74194948177319
1359,[C:10]([C:11]([H:12])[H:13])([H:14])([H:15])[H:16].[O:1]([C:2](=[O:3])[C:4](=[C:5]([H:8])[H:9])[H:7])[H:6]>>[O:1]([C:2](=[O:3])[C:4]([C:5]([H:8])[H:9])([H:7])[C:11]([C:10]([H:14])([H:15])[H:16])([H:12])[H:13])[H:6],15.001689992437605
3011,[C:16]([H:17])([H:18])[H:19].[C:1]([C:2]([O:3][C:4](=[O:5])[C:6](=[C:7]([H:14])[H:15])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([O:3][C:4]([O:5])([C:6](=[C:7]([H:14])[H:15])[H:13])[C:16]([H:17])([H:18])[H:19])([H:11])[H:12])([H:8])([H:9])[H:10],25.73992532593548
2715,[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([H:7])[C:8]([C:9]([H:17])([H:18])[H:19])([H:15])[H:16])([H:13])[H:14])([H:10])([H:11])[H:12].[C:20]([O:21][C:22](=[O:23])[C:24](=[C:25]([H:30])[H:31])[C:26]([H:32])([H:33])[H:34])([H:27])([H:28])[H:29]>>[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([H:7])([C:8]([C:9]([H:17])([H:18])[H:19])([H:15])[H:16])[H:32])([H:13])[H:14])([H:10])([H:11])[H:12].[C:20]([O:21][C:22](=[O:23])[C:24](=[C:25]([H:30])[H:31])[C:26]([H:33])[H:34])([H:27])([H:28])[H:29],21.52424209500896
3073,[C:16]([C:17]([C:18]([H:19])[c:20]1[c:21]([H:31])[c:22]([H:32])[c:23]([H:33])[c:24]([H:34])[c:25]1[H:35])([H:29])[H:30])([H:26])([H:27])[H:28].[C:1]([C:2]([O:3][C:4](=[O:5])[C:6](=[C:7]([H:14])[H:15])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:16]([C:17](=[C:18]([H:19])[c:20]1[c:21]([H:31])[c:22]([H:32])[c:23]([H:33])[c:24]([H:34])[c:25]1[H:35])[H:29])([H:26])([H:27])[H:28].[C:1]([C:2]([O:3][C:4]([O:5])([C:6](=[C:7]([H:14])[H:15])[H:13])[H:30])([H:11])[H:12])([H:8])([H:9])[H:10],52.370347998221405
520,[C:1]([O:2][O:3])([H:4])([H:5])[H:6].[C:7]([C:8](=[O:9])[O:10][C:11](=[C:12]([H:17])[H:18])[H:16])([H:13])([H:14])[H:15]>>[C:1]([O:2][O:3][C:11]([O:10][C:8]([C:7]([H:13])([H:14])[H:15])=[O:9])([C:12]([H:17])[H:18])[H:16])([H:4])([H:5])[H:6],22.85820042103296
969,[C:14]([C:15]([O:16][C:17](=[O:18])[C:19](=[C:20]([H:27])[H:28])[H:26])([H:24])[H:25])([H:21])([H:22])[H:23].[C:1]([C:2]([C:3]([H:4])[H:5])([C:6](=[O:7])[O:8][H:13])[H:12])([H:9])([H:10])[H:11]>>[C:14]([C:15]([O:16][C:17](=[O:18])[C:19](=[C:20][H:28])[H:26])([H:24])[H:25])([H:21])([H:22])[H:23].[C:1]([C:2]([C:3]([H:4])([H:5])[H:27])([C:6](=[O:7])[O:8][H:13])[H:12])([H:9])([H:10])[H:11],25.67823867785046
5402,[C:17]([C:18]([C:19]([H:20])[H:21])([N:22]([C:23](=[O:24])[H:30])[H:29])[H:28])([H:25])([H:26])[H:27].[C:1](=[C:2]([c:3]1[c:4]([H:12])[c:5]([H:13])[c:6]([H:14])[c:7]([H:15])[c:8]1[H:16])[H:11])([H:9])[H:10]>>[C:1](=[C:2]([c:3]1[c:4][c:5]([H:13])[c:6]([H:14])[c:7]([H:15])[c:8]1[H:16])[H:11])([H:9])[H:10].[H:12][C:19]([C:18]([C:17]([H:25])([H:26])[H:27])([N:22]([C:23](=[O:24])[H:30])[H:29])[H:28])([H:20])[H:21],25.64069933607243
3650,[C:17]([C:18](=[O:19])[O:20][C:21](=[C:22]([H:27])[H:28])[H:26])([H:23])([H:24])[H:25].[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5]([H:6])[H:7])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5]([H:6])([H:7])[C:22]([C:21]([O:20][C:18]([C:17]([H:23])([H:24])[H:25])=[O:19])[H:26])([H:27])[H:28])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],15.472973962198012
3344,[C:13]([C:14]([C:15]([H:16])[O:17][C:18]([H:24])([H:25])[H:26])([H:22])[H:23])([H:19])([H:20])[H:21].[C:1]([C:2](=[C:3]([H:8])[H:9])[C:4]([H:10])([H:11])[H:12])([H:5])([H:6])[H:7]>>[C:1]([C:2]([C:3]([H:8])([H:9])[C:15]([C:14]([C:13]([H:19])([H:20])[H:21])([H:22])[H:23])([H:16])[O:17][C:18]([H:24])([H:25])[H:26])[C:4]([H:10])([H:11])[H:12])([H:5])([H:6])[H:7],16.09058993429062
2198,[C:1]([C:2]([C:3]([C:4]([H:13])([H:14])[H:15])([C:5]([C:6]([H:18])([H:19])[H:20])([H:16])[H:17])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9].[O:21][H:22]>>[C:1]([C:2]([C:3]([C:4]([H:13])([H:14])[H:15])([C:5]([H:16])[H:17])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9].[C:6]([H:18])([H:19])([H:20])[O:21][H:22],45.22030412987806
